US05100900
1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(3-phenylquinolin-5-yl)-pyridine-5-carbonitrile
0.7 g (3 mmol) of 3-phenylquinoline-5-aldehyde in 6 ml of ethanol are boiled with 0.35 g (3 mmol) of methyl acetoacetate and 0.25 g (3 mmol) of 3-aminocrotononitrile for 24 hours. The mixture is cooled and concentrated. The evaporation residue is purified by means of a silica gel column using toluene/ethyl acetate mixtures. The clean fractions are combined and concentrated. 0.5 g of colorless substance of melting point 242° C. are obtained by crystallization from isopropanol.

reactant | 3-phenylquinoline-5-aldehyde | 3 mmol, 0.7 g | C1(=CC=CC=C1)C=1C=NC=2C=CC=C(C2C1)C=O | C16H11NO
reactant | methyl acetoacetate | 3 mmol, 0.35 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | 3-aminocrotononitrile | 3 mmol, 0.25 g | N\C(=C/C#N)\C | C4H6N2
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(3-phenylquinolin-5-yl)-pyridine-5-carbonitrile | CC=1NC(=C(C(C1C(=O)OC)C1=C2C=C(C=NC2=CC=C1)C1=CC=CC=C1)C#N)C | C25H21N3O2
